US07906645B2
To a suspension of the hydrochloride salt of N-(3,4-dichlorophenyl)-4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxamide (442 mg, 1.00 mmol) in dichloromethane (40 ml) was added 6-(2-methoxyethoxy)nicotinaldehyde (199 mg, 1.00 mmol) and the cloudy mixture stirred at room temperature for 10 minutes. Polymer supported sodium triacetoxyborohydride (555 mg, 1.50 mmol) was added and the reaction stirred at room temperature overnight. The mixture was filtered, the filtrate washed with water (20 ml), organic extract dried (Na2SO4), filtered and evaporated to an oil. Flash column chromatography (10 gram Isolute silica column eluting; CH2Cl2 to 10% MeOH/CH2Cl2) yielded N-(3,4-dichlorophenyl)-4-[((3R)-1-{[6-(2-methoxyethoxy)pyridin-3-yl]methyl}piperidin-3-yl)methyl]piperazine-1-carboxamide (145 mg, 27%) as a white foam.

reactant | N-(3,4-dichlorophenyl)-4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxamide | 1.00 mmol, 442 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CNCCC1 | C17H24Cl2N4O
reactant | 6-(2-methoxyethoxy)nicotinaldehyde | 1.00 mmol, 199 mg | COCCOC1=NC=C(C=O)C=C1 | C9H11NO3
reactant | sodium triacetoxyborohydride | 1.50 mmol, 555 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-(3,4-dichlorophenyl)-4-[((3R)-1-{[6-(2-methoxyethoxy)pyridin-3-yl]methyl}piperidin-3-yl)methyl]piperazine-1-carboxamide | 145 mg, 27% | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CN(CCC1)CC=1C=NC(=CC1)OCCOC | C26H35Cl2N5O3
